US04085280
(C) 3,3a,4,5,6,7-Hexahydro-N,N,2-trimethyl-3,7-diphenyl-2H-indazole-7-methanamine, monohydrochloride
A solution of 10.7 g of 2-[(dimethylamino)methyl]-2-phenyl-6-(phenylmethylene)cyclohexanone, monohydrochloride in 70 ml of methanol is treated with 1.5 g of methylhydrazine and the resulting solution is refluxed for 4 hours. The solution is cooled and the solvent is removed on a rotary evaporator to give 13.7 g of a semi-crystalline solid residue, which is crystallized from 30 ml of isopropanol to give 4.2 g of the title compound, melting point 225°-227° C (dec.). An additional 0.77 g of product is recovered from the filtrate giving a total yield of 4.97 g of the title compound, melting point 225°-227° C. Recrystallization of 5.6 g of this material from 100 ml of isopropanol gives 4.8 g of product, melting point 225°-227° C (dec.).

reactant | 2-[(dimethylamino)methyl]-2-phenyl-6-(phenylmethylene)cyclohexanone, monohydrochloride | 10.7 g | Cl.CN(C)CC1(C(C(CCC1)=CC1=CC=CC=C1)=O)C1=CC=CC=C1
reactant | methylhydrazine | 1.5 g | CNN | CH6N2
solvent | methanol | 70 ml | CO | CH4O
product | 3,3a,4,5,6,7-Hexahydro-N,N,2-trimethyl-3,7-diphenyl-2H-indazole-7-methanamine, monohydrochloride | 4.2 g | Cl.CN(CC1(CCCC2C(N(N=C12)C)C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H29N3.ClH/c1-25(2)17-23(19-13-8-5-9-14-19)16-10-15-20-21(26(3)24-22(20)23)18-11-6-4-7-12-18;/h4-9,11-14,20-21H,10,15-17H2,1-3H3;1H
